US04382089
A mixture of 3.87 g (30 mmol) of 5-oxo-L-proline, 2.19 ml (30 mmol) of thionyl chloride, 2.32 ml (30 mmol) of dimethylformamide, and 75 ml of dichloromethane is stirred with cooling for 1 hour. A mixture of 4.08 g (20 mmol) 8-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 8.4 ml (60 mmol) of triethylamine, 7.6 ml (60 mmol) of chlorotrimethylsilane, and 100 ml of dichloromethane is stirred at room temperature for 40 minutes and then is cooled to 0°. The cold acid chloride solution is added to the cold silylated quinoline and the mixture is stirred with cooling for 4 hours and at room temperature overnight. The reaction mixture is evaporated to dryness and the residue is treated with ethanol to give 3.40 g of 1,4-dihydro-4-oxo-8-[[(5-oxo-2-pyrrolidinyl)carbonyl]amino]-3-quinolinecarboxylic acid.

reactant | 5-oxo-L-proline | 30 mmol, 3.87 g | O=C1CC[C@H](N1)C(=O)O | C5H7NO3
reactant | thionyl chloride | 30 mmol, 2.19 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 30 mmol, 2.32 ml | CN(C=O)C | C3H7NO
reactant | 8-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 20 mmol, 4.08 g | NC=1C=CC=C2C(C(=CNC12)C(=O)O)=O | C10H8N2O3
reactant | triethylamine | 60 mmol, 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 60 mmol, 7.6 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 1,4-dihydro-4-oxo-8-[[(5-oxo-2-pyrrolidinyl)carbonyl]amino]-3-quinolinecarboxylic acid | 3.40 g | O=C1C(=CNC2=C(C=CC=C12)NC(=O)C1NC(CC1)=O)C(=O)O | C15H13N3O5
